US20010014683A1
(i) Methyl 4-{N-[1-(S)-phenyl-2-(pyrrolidin-1-yl)ethyl]-N-methylamino}benzoate
This was prepared from the mixture of 2-(R)-phenyl-2-(pyrrolidin-1-yl)ethanol and 1-(S)-phenyl-2-(pyrrolidin-1-yl)ethanol and methyl 4-methylaminobenzoate in 52% yield according to a procedure similar to that described in Example 1 (i).

reactant | 2-(R)-phenyl-2-(pyrrolidin-1-yl)ethanol | C1(=CC=CC=C1)[C@H](CO)N1CCCC1 | C12H17NO
reactant | 1-(S)-phenyl-2-(pyrrolidin-1-yl)ethanol | C1(=CC=CC=C1)[C@@H](CN1CCCC1)O | C12H17NO
reactant | methyl 4-methylaminobenzoate | CNC1=CC=C(C(=O)OC)C=C1 | C9H11NO2
product | Methyl 4-{N-[1-(S)-phenyl-2-(pyrrolidin-1-yl)ethyl]-N-methylamino}benzoate | 52% yield | C1(=CC=CC=C1)[C@@H](CN1CCCC1)N(C)C1=CC=C(C(=O)OC)C=C1 | C21H26N2O2
